US09259470B2
4-Bromo-2-fluoropyridine (1.38 g, 7.84 mmol) was dissolved in DMSO (20 mL), and (tetrahydro-pyran-4-yl)amine (0.912 g, 9.02 mmol) was added, followed by cesium carbonate (5.11 g, 15.7 mmol). The mixture was heated to 90° C. and agitated 3 hours. After cooling, the mixture was diluted with ethyl acetate (200 mL) and washed with water (5×), brine, dried and evaporated to give 4-bromo-N-(tetrahydro-2H-pyran-4-yl)pyridin-2-amine (1.12 g, 4.36 mmol, 55.5% yield) as an oil.

reactant | 4-Bromo-2-fluoropyridine | 7.84 mmol, 1.38 g | BrC1=CC(=NC=C1)F | C5H3BrFN
reactant | (tetrahydro-pyran-4-yl)amine | 9.02 mmol, 0.912 g | O1CCC(CC1)N | C5H11NO
reactant | cesium carbonate | 15.7 mmol, 5.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-bromo-N-(tetrahydro-2H-pyran-4-yl)pyridin-2-amine | 4.36 mmol, 1.12 g, 55.5% yield | BrC1=CC(=NC=C1)NC1CCOCC1 | C10H13BrN2O
